US06221865B1
4-(formyl)-2-phenylbenzoyl methionine methyl ester, alternate procedure
A mixture of (2-phenyl-4-bromobenzoyl) methionine methyl ester (100 mmol), 4,4,6-trimethyl-2-vinyl-1,3,2-dioxaborinane (100 mmol), tetrakis(triphenylphosphine)palladium (0) (3 mmol) in toluene and 2 M sodium carbonate in water (100 mL) is heated at 80° C. until the starting methyl ester disappears. The resulting mixture is extracted with ether, and washed with water, brine, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The residue is then purified by column chromatography on silica gel. To a solution of the resulting vinyl compound in dioxane/water (4/1) is added osmium tetraoxide (0.03 equivalent), N-methylmorpholine N-oxide (3 equivalents), and the reaction is stirred at 25° C. until TLC analysis shows the reaction to be complete. The reaction mixture is extracted with ether, which is washed with water and brine, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The residue is then purified by column chromatography on silica gel to afford the title product.

reactant | (2-phenyl-4-bromobenzoyl) methionine methyl ester | 100 mmol | COC([C@@H](NC(C1=C(C=C(C=C1)Br)C1=CC=CC=C1)=O)CCSC)=O | C19H20BrNO3S
reactant | 4,4,6-trimethyl-2-vinyl-1,3,2-dioxaborinane | 100 mmol | CC1(OB(OC(C1)C)C=C)C | C8H15BO2
reactant | N-methylmorpholine N-oxide | 3 equivalents | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 100 mL | O | H2O
solvent | dioxane water | O1CCOCC1.O
catalyst | tetrakis(triphenylphosphine)palladium | 3 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | osmium tetraoxide | 0.03 equivalent | [Os](=O)(=O)(=O)=O
product | 4-(formyl)-2-phenylbenzoyl methionine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)C=O)C1=CC=CC=C1)=O)CCSC)=O | C20H21NO4S
